US07947712B2
N-[(8-hydroxy-5-nitroquinolin-7-yl)(phenyl)methyl]-2-phenoxyacetamide (4.0 g, 9.31 mmol), 10% Pd/C (420 mg) in 70 ml THF were hydrogenated at 42 psi for 20 h. The reaction mixture was filtered through Celite 545, dried over sodium sulfate and concentrated to afford 2.3 g of N-[(5-amino-8-hydroxyquinolin-7-yl)(phenyl)methyl]-2-phenoxyacetamide as a brown foam.

reactant | N-[(8-hydroxy-5-nitroquinolin-7-yl)(phenyl)methyl]-2-phenoxyacetamide | 9.31 mmol, 4.0 g | OC=1C(=CC(=C2C=CC=NC12)[N+](=O)[O-])C(NC(COC1=CC=CC=C1)=O)C1=CC=CC=C1 | C24H19N3O5
solvent | THF | 70 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 420 mg | [Pd] | Pd
product | N-[(5-amino-8-hydroxyquinolin-7-yl)(phenyl)methyl]-2-phenoxyacetamide | 2.3 g | NC1=C2C=CC=NC2=C(C(=C1)C(NC(COC1=CC=CC=C1)=O)C1=CC=CC=C1)O | C24H21N3O3
